US06794395B1
(14) 3-(Z)-[1-(4-{N-[(2-dimethylamino-ethylamino)-carbonyl-methyl]N-methylsulphonyl-amino}-anilino)-1-phenyl-methylidene]-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone and N-[(2-dimethylamino-ethylamino)-carbonylmethyl]-N-methylsulphonyl-p-phenylenediamine

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(C1=CC=CC=C1)OCC)=O | C21H21NO5
reactant | N-[(2-dimethylamino-ethylamino)-carbonylmethyl]-N-methylsulphonyl-p-phenylenediamine | CN(CCNC(=O)CN(C1=CC=C(C=C1)N)S(=O)(=O)C)C | C13H22N4O3S
product | 3-(Z)-[1-(4-{N-[(2-dimethylamino-ethylamino)-carbonyl-methyl]N-methylsulphonyl-amino}-anilino)-1-phenyl-methylidene]-5,6-dimethoxy-2-indolinone | CN(CCNC(=O)CN(S(=O)(=O)C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1)C | C30H35N5O6S
